US06562811B1
To a cold (0° C.) suspension of ethyl 5-[1-(tert-butoxycarbonyl)-3-piperidinyl]-7-(2-hydroxyphenyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate (0.050 g, 0.101 mmol) in THF (2.0 mL) under an argon atmosphere was added LiBH4 (0.004 g, 0.20 mmol). The mixture was allowed to warm to room temperature, and the stirring was continued for 3 hrs. The resulting mixture was quenched with water, and partitioned between ethyl acetate and a saturated ammonium chloride solution. The separated organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane: ethyl acetate, 3:2) to give Ethyl 5-[1-(tert-butoxycarbonyl)-3-piperidinyl]-7-(2-hydroxyphenyl)-2-oxo-1,2,3,4-tetrahydro-1,8-naphthyridine-3-carboxylate. (0.027 g, yield; 54%)

reactant | ethyl 5-[1-(tert-butoxycarbonyl)-3-piperidinyl]-7-(2-hydroxyphenyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 0.101 mmol, 0.050 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=C2C=C(C(NC2=NC(=C1)C1=C(C=CC=C1)O)=O)C(=O)OCC | C27H31N3O6
reactant | LiBH4 | 0.20 mmol, 0.004 g | [Li+].[BH4-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | Ethyl 5-[1-(tert-butoxycarbonyl)-3-piperidinyl]-7-(2-hydroxyphenyl)-2-oxo-1,2,3,4-tetrahydro-1,8-naphthyridine-3-carboxylate | yield; 54% | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=C2CC(C(NC2=NC(=C1)C1=C(C=CC=C1)O)=O)C(=O)OCC | C27H33N3O6
